US06156893
Preparation of (±)-2-acetyl-2-azabicyclo[2.2.1]hept-5-en-3-one
100 g of (±)-2-azabicyclo[2.2.1]hept-5-en-3-one were dissolved in acetonitrile (800 ml) and pyridine (161.26 ml) under nitrogen. At 12° C., 104.5 g of acetyl chloride were added dropwise over the course of 2 hours. The mixture was then stirred at room temperature for 4.5 hours. 800 ml of water were added to the mixture, and the acetonitrile was evaporated off in vacuo. The aqueous phase was extracted 3 times with 400 ml of ethyl acetate. The combined org. phases were washed with 1N HCl (400 ml), water (400 ml), saturated NaCl (400 ml), dried with magnesium sulphate and completely evaporated. The residue was taken up in methylene chloride and filtered through silica gel. The filtrate was concentrated and the product was purified by distillation. 107.76 g of product were obtained as a clear liquid. The yield was 71%.

reactant | (±)-2-azabicyclo[2.2.1]hept-5-en-3-one | 100 g | C12NC(C(C=C1)C2)=O | C6H7NO
reactant | pyridine | 161.26 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 104.5 g | C(C)(=O)Cl | C2H3ClO
reactant | water | 800 ml | O | H2O
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | (±)-2-acetyl-2-azabicyclo[2.2.1]hept-5-en-3-one | 107.76 g, yield was 71% | C(C)(=O)N1C2C=CC(C1=O)C2 | C8H9NO2
